US07435735B2
Step 5: 8-(3-Chloro-4-fluorobenzyl)-10-hydroxy-2-methyl-3,4,7,8-tetrahydro-pyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A mixture of ethyl 4-methoxy-1-methyl-2-oxo-1,2,5,6-tetrahydropyridine-3-carboxylate (0.27 g, 1.27 mmol) and 1-(3-chloro-4-fluorobenzyl)piperazin-2-one (0.92 g, 3.80 mmol) in ethylene glycol (2.5 mL) was heated in a sealed tube at 250° C. in a microwave reactor for 20 minutes with stirring. The resultant solution was diluted with methanol (2.5 mL) and cooled to 0° C. The white solid precipitate was filtered, washed successively with cold methanol and diethyl ether, and then dried under vacuum to provide the title compound.

reactant | ethyl 4-methoxy-1-methyl-2-oxo-1,2,5,6-tetrahydropyridine-3-carboxylate | 1.27 mmol, 0.27 g | COC1=C(C(N(CC1)C)=O)C(=O)OCC | C10H15NO4
reactant | 1-(3-chloro-4-fluorobenzyl)piperazin-2-one | 3.80 mmol, 0.92 g | ClC=1C=C(CN2C(CNCC2)=O)C=CC1F | C11H12ClFN2O
solvent | ethylene glycol | 2.5 mL | C(CO)O | C2H6O2
solvent | methanol | 2.5 mL | CO | CH4O
product | 8-(3-Chloro-4-fluorobenzyl)-10-hydroxy-2-methyl-3,4,7,8-tetrahydro-pyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3N(CC2)C2=C(C3O)C(N(CC2)C)=O)=O)C=CC1F | C18H17ClFN3O3
